US05854274
9,10-Dihydro-4-nitroacridine
1.361 g (10 mmol) of aluminum chloride was dissolved in 10 ml of dry tetrahydrofuran. To the solution thus obtained was slowly added 75 ml of a solution of 1.201 g (5 mmol) of 4-nitro-9(10H)-acridinone in dry tetrahydrofuran. After stirring at room temperature for 30 minutes, 759 mg (20 mmol) of lithium aluminum hydride was added thereto in portions. After stirring at room temperature for 30 minutes and then at 55° C. for additional 30 minutes, the reaction mixture was cooled to room temperature and 5 ml of 1N hydrochloric acid was added thereto. After concentrating, ethyl acetate and water were added to the residue and the formed insoluble matters were filtered off. The organic layer was separated from the filtrate and dried over magnesium sulfate. After concentrating, the residue was purified by silica gel column chromatography. Thus 148 mg of the title compound was obtained.

reactant | aluminum chloride | 10 mmol, 1.361 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-nitro-9(10H)-acridinone | 5 mmol, 1.201 g | [N+](=O)([O-])C1=CC=CC=2C(C3=CC=CC=C3NC12)=O | C13H8N2O3
reactant | lithium aluminum hydride | 20 mmol, 759 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 9,10-Dihydro-4-nitroacridine | 148 mg | [N+](=O)([O-])C1=CC=CC=2CC3=CC=CC=C3NC12 | C13H10N2O2
